US06124354
1-(3,4-Methylenedioxyphenyl)cyclobutanecarboxylic Acid
The title compound was prepared in an analogous manner to that in Example 9 from 3,4-methylenedioxyphenylacetonitrile and 1,3-dibromopropane. 2.1 eq of NaH and 1.1 eq of 1,3-dibromopropane were used. The mixture of 3,4-methylenedioxyphenylacetonitrile and 1,3-dibromopropane was added at 0° C. The afforded 1-(3,4-methylenedioxyphenyl)cyclobutanecarbonitrile was purified by chromatography on silica gel using petroleum ether-EtOAc 94:6 as eluent. The product (11 mmol) was then refluxed with KOH (33 mmol) in ethyleneglycol (16.6 mL) and H2O (1.4 mL) for 7 h. The cooled mixture was extracted with Et2O. The aqueous layer was acidified and extracted with Et2O. The crude was chromatographed on silica gel using EtOAc-HOAc 99:1 as eluent to give the desired product. The yield was 1.1 g (26%); 1H NMR (CDCl3) δ 1.80-1.95 (m, 1H), 1.97-2.12 (m, 1H), 2.40-2.50 (m, 2H), 2.75-2.85 (m, 2H), 5.91 (s, 2H), 6.75-6.80 (m, 3H).

reactant | 3,4-methylenedioxyphenylacetonitrile | C1OC=2C=C(C=CC2O1)CC#N | C9H7NO2
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
reactant | NaH | 2.1 eq | [H-].[Na+]
reactant | 1,3-dibromopropane | 1.1 eq | BrCCCBr | C3H6Br2
reactant | KOH | 33 mmol | [OH-].[K+]
reactant | H2O | 1.4 mL | O | H2O
solvent | ethyleneglycol | 16.6 mL | C(CO)O | C2H6O2
product | 1-(3,4-Methylenedioxyphenyl)cyclobutanecarboxylic Acid | C1OC=2C=C(C=CC2O1)C1(CCC1)C(=O)O | C12H12O4
